US06355642B1
2a-[4-(4-Acetyl-4-phenyl-piperidyl)butyl]-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
2a-(3-Formylpropyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one (180 mg, 0.72 mmol), 4-acetyl-4-phenylpiperidine hydrochloride (190 mg, 0.79 mmol), acetic acid (430 mg, 7.2 mmol) and sodium triacetoxyborate (310 mg, 1.4 mmol) were stirred in 1,2-dichloroethane (3 ml) at a room temperature for 20 hours. The reaction solution was mixed with ethyl acetate (80 ml), washed with sodium hydroxide aqueous solution (1 N) and saturated brine and dried with anhydrous sodium sulfate. Then the compound obtained by the evaporation of the solvent under a reduced pressure was separated and purified by a silica gel column chromatography to obtain 74 mg of the title compound (0.17 mmol, 24% in yield).

reactant | 2a-(3-Formylpropyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.72 mmol, 180 mg | C(=O)CCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H17NO2
reactant | 4-acetyl-4-phenylpiperidine hydrochloride | 0.79 mmol, 190 mg | Cl.C(C)(=O)C1(CCNCC1)C1=CC=CC=C1
reactant | acetic acid | 7.2 mmol, 430 mg | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 2a-[4-(4-Acetyl-4-phenyl-piperidyl)butyl]-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.17 mmol, 74 mg, 24% | C(C)(=O)C1(CCN(CC1)CCCCC12C(NC=3C=CC=C(C13)CCC2)=O)C2=CC=CC=C2 | C28H34N2O2
